US09029402B2
To a mixture of 3-(3-(4-bromophenyl)-2-(4-cyano-2-methylphenyl)-1H-pyrrol-1-yl)propanoic acid (400 mg, 0.98 mmol) and imidazole (200 mg, 2.94 mol) in DMSO (5 mL) was added L-proline (33.8 mg, 0.294 mmol), CuI (111.7 mg, 0.588 mmol) and K2CO3 (270 mg, 1.96 mmol), then the resultant mixture was stirred at 100° C. overnight. After being cooled down to room temperature, the reaction mixture was filtered, and the filter cake was washed with ethyl acetate (10 mL×3). The combined filtrate was washed with saturated NaHCO3 aqueous solution (30 mL), and the aqueous layer was extracted with ethyl acetate (15 mL×3). The combined organic layers were washed with brine, dried over MgSO4, concentrated. The residue was purified by silica gel column (DCM: MeOH=30:1-20:1) to afford 3-(3-(4-(1H-imidazol-1-yl)phenyl)-2-(4-cyano-2-methylphenyl)-1H-pyrrol-1-yl)propanoic acid (190 mg, yield 48.9%) as a solid.

reactant | 3-(3-(4-bromophenyl)-2-(4-cyano-2-methylphenyl)-1H-pyrrol-1-yl)propanoic acid | 0.98 mmol, 400 mg | BrC1=CC=C(C=C1)C1=C(N(C=C1)CCC(=O)O)C1=C(C=C(C=C1)C#N)C | C21H17BrN2O2
reactant | imidazole | 2.94 mol, 200 mg | N1C=NC=C1 | C3H4N2
reactant | L-proline | 0.294 mmol, 33.8 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K2CO3 | 1.96 mmol, 270 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.588 mmol, 111.7 mg | [Cu]I
product | 3-(3-(4-(1H-imidazol-1-yl)phenyl)-2-(4-cyano-2-methylphenyl)-1H-pyrrol-1-yl)propanoic acid | 190 mg, yield 48.9% | N1(C=NC=C1)C1=CC=C(C=C1)C1=C(N(C=C1)CCC(=O)O)C1=C(C=C(C=C1)C#N)C | C24H20N4O2
